US06184225B2
5-Benzyloxy-2-fluoro-4-methyl-1-nitrobenzene (500 mg, 1.9 mmol) in methanol (10 ml) was added to a suspension of Raney nickel (75 mg) and hydrazine hydrate (465 ml, 9.5 mmol) in methanol (10 ml) and heated at reflux. The mixture was maintained under reflux for 15 minutes and then the insoluble materials removed by filtration through diatomaceous earth. The filter pad was washed with methanol and the solvent removed from the filtrate by evaporation to give 5-benzyloxy-2-fluoro-4-methylaniline (440 mg, 99%).

reactant | 5-Benzyloxy-2-fluoro-4-methyl-1-nitrobenzene | 1.9 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)[N+](=O)[O-])F)C | C14H12FNO3
reactant | hydrazine hydrate | 9.5 mmol, 465 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
catalyst | Raney nickel | 75 mg | [Ni] | Ni
solvent | methanol | 10 ml | CO | CH4O
product | 5-benzyloxy-2-fluoro-4-methylaniline | 440 mg, 99% | C(C1=CC=CC=C1)OC=1C(=CC(=C(N)C1)F)C | C14H14FNO
